US08802864B2
5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-4-[4-(1H-indol-6-yl)-2-methylphenyl]-2,4-dihydro-3H-1,2,4-triazol-3-one
A microwave vial was charged with 4-(4-bromo-2-methylphenyl)-5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one (105 mg, 0.259 mmol), 1H-indol-6-ylboronic acid (41.7 mg, 0.259 mmol), PdCl2(dppf) (9.48 mg, 0.013 mmol), K2CO3 (90 mg, 0.648 mmol), 1,4-dioxane (3 mL) and water (1 mL). The reaction was purged with nitrogen, sealed and heated in a microwave reactor at 150° C. for 30 min (LCMS indicated complete conversion of starting material to desired product). The reaction mixture was concentrated under reduced pressure and the residue was dissolved in DMSO, filtered through a syringe filter and purified by reverse phase HPLC (Gilson, YMC-Pack ODS-A C18 5 μm 75×30 mm column, 10-90% MeCN/water+0.1% TFA, 3×1 mL injections). The appropriate fractions were concentrated to remove a majority of the MeCN, leaving an aqueous suspension of product. The precipitate was collected by filtration, rinsed with minimal water and dried to constant weight under vacuum to provide the title product (56 mg, 0.127 mmol, 49.0% yield) as a white solid. MS(ES)+ m/e 442.3 [M+H]+. 1H NMR (400 MHz, DMSO-d6) δ ppm 11.74 (d, J=3.79 Hz, 1H), 11.24 (s, 1H), 7.74 (br. s., 1H), 7.70 (s, 1H), 7.64 (d, J=8.34 Hz, 2H), 7.31-7.44 (m, 3H), 6.47 (d, J=2.27 Hz, 1H), 3.63-3.85 (m, 1H), 2.87-3.57 (m, 3H), 2.30-2.47 (m, 3H), 2.13-2.21 (m, 3H), 2.08 (s, 1H), 1.44-1.76 (m, 2H), 0.61-0.78 (m, 4H).

reactant | 4-(4-bromo-2-methylphenyl)-5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one | 0.259 mmol, 105 mg | BrC1=CC(=C(C=C1)N1C(NN=C1C[C@H]1CN(CC1)C(=O)C1CC1)=O)C | C18H21BrN4O2
reactant | 1H-indol-6-ylboronic acid | 0.259 mmol, 41.7 mg | N1C=CC2=CC=C(C=C12)B(O)O | C8H8BNO2
reactant | K2CO3 | 0.648 mmol, 90 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) | 0.013 mmol, 9.48 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | water | 1 mL | O | H2O
product | 5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-4-[4-(1H-indol-6-yl)-2-methylphenyl]-2,4-dihydro-3H-1,2,4-triazol-3-one | 0.127 mmol, 56 mg, 49.0% yield | C1(CC1)C(=O)N1C[C@@H](CC1)CC=1N(C(NN1)=O)C1=C(C=C(C=C1)C1=CC=C2C=CNC2=C1)C | C26H27N5O2
